US05025036
A mixture of 0.58 g of 1-(6-iodohexyl)-2,3-bis(phenyl-methoxy)benzene, 0.18 g of 3-hydroxybenzoic acid methyl ester and 0.25 g of potassium carbonate in 15 mL of acetone was stirred at reflux for 18 hours. Workup as in Example 16 and purification by HPLC using toluene gave 0.40 g (66% yield) of 3-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid methyl ester as an oil.

reactant | 1-(6-iodohexyl)-2,3-bis(phenyl-methoxy)benzene | 0.58 g | ICCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C26H29IO2
reactant | 3-hydroxybenzoic acid methyl ester | 0.18 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | potassium carbonate | 0.25 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 3-[6-[2,3-bis(phenylmethoxy)phenyl]hexyloxy]benzoic acid methyl ester | 0.40 g, 66% yield | COC(C1=CC(=CC=C1)OCCCCCCC1=C(C(=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)=O | C34H36O5
